US09416115B2
N-(2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)ethyl)pyrimidin-2-amine
2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)ethanamine hydrochloride (57 mg, 0.152 mmol) and 2-(methylsulfonyl)pyrimidine (96 mg, 0.608 mmol) were dissolved in 2 mL ethanol in a microwave vial. Triethylamine (0.1 mL) was added and the mixture was heated at 120° C. for one hour in the microwave. All volatiles were removed under vacuum and the residue was purified on 12 g silica gel with 0-100% ethyl acetate in hexane to give the title compound (40 mg, 0.096 mmol). MS: 417 (MH+).

reactant | 2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)ethanamine hydrochloride | 0.152 mmol, 57 mg | Cl.FC(OC1=CC=C(C=C1)C=1C=CC2=C(C(=NO2)OCCN)C1)(F)F
reactant | 2-(methylsulfonyl)pyrimidine | 0.608 mmol, 96 mg | CS(=O)(=O)C1=NC=CC=N1 | C5H6N2O2S
reactant | Triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(2-((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)ethyl)pyrimidin-2-amine | 0.096 mmol, 40 mg | FC(OC1=CC=C(C=C1)C=1C=CC2=C(C(=NO2)OCCNC2=NC=CC=N2)C1)(F)F | C20H15F3N4O3
